US05814631
Synthesis of 7-chloro-3-(4-methoxybenzenesulfonyl)-2,4(1H,3H)-quinazolinedione (Compound 135)
1.14 g (5.35 mmol) of 4-methoxybenzenesulfonylisocyanate and 938 mg (5.35 mmol) of 2-amino-4-chlorobenzoic acid were treated in the same way as in Example 1 to obtain 938 mg of the above-identified compound (yield 64.3%). Properties: colorless crystal, Melting point: >200° C. (decomposition), PMR (δppm, DMSO-d6):3.88 (3H,s), 7.12 (1H,s), 7.17-7.23 (3H,m), 7.85 (1H,d), 8.10 (2H,d), 11.68 (1H,br).

reactant | 4-methoxybenzenesulfonylisocyanate | 5.35 mmol, 1.14 g | COC1=CC=C(C=C1)S(=O)(=O)N=C=O | C8H7NO4S
reactant | 2-amino-4-chlorobenzoic acid | 5.35 mmol, 938 mg | NC1=C(C(=O)O)C=CC(=C1)Cl | C7H6ClNO2
product | 7-chloro-3-(4-methoxybenzenesulfonyl)-2,4(1H,3H)-quinazolinedione | 938 mg, yield 64.3% | ClC1=CC=C2C(N(C(NC2=C1)=O)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C15H11ClN2O5S
